US07064123B1
[1-(Benzooxazol-2-yl-hydroxy-methyl)-propyl]-carbamic acid tert-butyl ester (1a)
DIPEA (0.35 ml, 2 mmol) and di-tret-butyl dicarbonate (355 mg, 1.63 mmol) were added to a solution of 2-Amino-1-benzooxazol-2-yl-butan-1-ol (320 mg, 1.55 mmol) in dry methylene chloride (10 ml) and stirred at room temperature for 4 hrs. The reaction was quenched with saturated aqueous NH4Cl and the pH was adjusted to neutral. Oraganic layer separated and the aqueous layer extracted with methylene chloride. The combined organic extracts were dried over MgSO4 and concentrated under reduced pressure to give, 1-(Benzooxazol-2-yl-hydroxy-methyl)-propyl]-carbamic acid tert-butyl ester (500 mg).

reactant | DIPEA | 2 mmol, 0.35 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-Amino-1-benzooxazol-2-yl-butan-1-ol | 1.55 mmol, 320 mg | NC(C(O)C=1OC2=C(N1)C=CC=C2)CC | C11H14N2O2
reactant | carbamic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(N)=O | C5H11NO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | [1-(Benzooxazol-2-yl-hydroxy-methyl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC)C(O)C=1OC2=C(N1)C=CC=C2)=O | C16H22N2O4
